US06403804B1
Synthesis of methyl (S)-3-hydroxy-3-phenylpropionate
In a 1 liter autoclave was charged a mixture of 0.84 g of (1.0 mmol) of Ru2Cl4((R)-Tol-BINAP)2.NET3, 178 g (1.00 mol) of methyl benzoylacetate, and 500 ml of methanol, and the mixture was stirred at 50° C. under a hydrogen pressure of 1000 kPa for 16 hours. The solvent was evaporated under reduced pressure, and the residue was distilled under reduced pressure (99° C./100 Pa.) to yield 171 g (95%) of the title compound as liquid. Optical purity: 87%e.e.

reactant | methyl benzoylacetate | 1.00 mol, 178 g | C(C1=CC=CC=C1)(=O)CC(=O)OC | C10H10O3
solvent | methanol | 500 ml | CO | CH4O
product | methyl (S)-3-hydroxy-3-phenylpropionate | 171 g, 95% | O[C@@H](CC(=O)OC)C1=CC=CC=C1 | C10H12O3
